US08530476B2
4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyridin-3-ylamide
1-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine. The title compound was prepared from 4-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester in analogy with Example 6.

reactant | 1-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine | FC1(OC2=C(O1)C=CC(=C2)CN2CCNCC2)F | C12H14F2N2O2
reactant | 4-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC2=C(OC(O2)(F)F)C=C1 | C17H22F2N2O4
product | 4-(2,2-Difluoro-benzo[1,3]dioxol-5-ylmethyl)-piperazine-1-carboxylic acid pyridin-3-ylamide | N1=CC(=CC=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OC(O2)(F)F)C=C1 | C18H18F2N4O3
